US07521461B2
b) 2-{[3-(2-Oxo-2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]methyl}benzoic acid
Methyl 2-{[3-(2-oxo-2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]methyl}-benzoate (82 mg, 0.18 mmol) in THF (2 ml) was cooled in an ice-bath. Lithium hydroxide (8.6 mg, 0.36 mmol) in water (1 ml) was dropped in. The cooling-bath was then removed and the mixture was stirred for 7 days and then evaporated in vacuum to remove THF. The residue was acidified with 1% hydrochloric acid, pH˜3, and extracted with ethyl acetate. The organic phase was dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 2 g/6 ml) using DCM and MeOH/DCM (1:99, then 2:98) as eluant gave 20 mg the desired product, yield 22.5% (two steps).

reactant | Methyl 2-{[3-(2-oxo-2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]methyl}-benzoate | 0.18 mmol, 82 mg | O=C(CC=1C=C(OCC2=C(C(=O)OC)C=CC=C2)C=CC1)NCC1=CC=C(C=C1)C(F)(F)F | C25H22F3NO4
reactant | Lithium hydroxide | 0.36 mmol, 8.6 mg | [OH-].[Li+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 2-{[3-(2-Oxo-2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]methyl}benzoic acid | 20 mg, yield 22.5% | O=C(CC=1C=C(OCC2=C(C(=O)O)C=CC=C2)C=CC1)NCC1=CC=C(C=C1)C(F)(F)F | C24H20F3NO4
